US04943568
Tert.-butyl 4-chloro-2-ethylidene-3-oxobutyrate
1.5 ml of piperidine are added dropwise to a stirred mixture of 212 g (1.1 mol) of tert.-butyl 4-chloro-3-oxobutyrate and 97 g (2.2 mol) of acetaldehyde at -20° C. under nitrogen. The mixture is subsequently stirred at -20° C. for six hours and is then worked up analogously to Example 2. Crude yield: 210 g, content according to gas chromatography: 6% of starting material, 52+37% of an isomer mixture of the product. The product is further processed in the crude form.

reactant | piperidine | 1.5 ml | N1CCCCC1 | C5H11N
reactant | tert.-butyl 4-chloro-3-oxobutyrate | 1.1 mol, 212 g | ClCC(CC(=O)OC(C)(C)C)=O | C8H13ClO3
reactant | acetaldehyde | 2.2 mol, 97 g | C(C)=O | C2H4O
product | Tert.-butyl 4-chloro-2-ethylidene-3-oxobutyrate | ClCC(C(C(=O)OC(C)(C)C)=CC)=O | C10H15ClO3
